US07705053B2
Production of 4-methoxy-3-N-(4-trifluoromethylphenyl)isophthalamide (Compound 1-3-21)
The captioned compound was synthesized from 6-methoxyisophthalamic acid and 4-trifluoromethylaniline by the same procedure as in the manufacturing method described in step C of Example 1-3-1.

reactant | 6-methoxyisophthalamic acid | COC1=CC=C(C=C1C(=O)O)C(=O)N | C9H9NO4
reactant | 4-trifluoromethylaniline | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
product | 4-methoxy-3-N-(4-trifluoromethylphenyl)isophthalamide | COC1=C(C=C(C(=O)N)C=C1)C(=O)NC1=CC=C(C=C1)C(F)(F)F | C16H13F3N2O3
